US07217724B2
methyl 3-[(2R)-2-(2-pyridin-3-yl-(2R)-2-(triethylsilyloxy)ethyl-amino)propyl]-1H-indole-7-carboxylate (0.72 g, 1.54 mmol) is dissolved in trifluoroacetic acid (20 mL), and the mixture is stirred at room temperature for one day. After concentrated, to the residue is added ethyl acetate, and the mixture is washed with a saturated aqueous sodium hydrogen carbonate solution and a saturated brine, dried over sodium sulfate, and concentrated. The residue is purified by silica gel column chromatography (methanol/chloroform=1/100→1/3) to give the desired methyl 3-[(2R)-2-((2R)-2-hydroxy-2-pyridin-3-ylethylamino)-propyl]-1H-indole-7-carboxylate (440 mg, yield: 81%).

reactant | methyl 3-[(2R)-2-(2-pyridin-3-yl-(2R)-2-(triethylsilyloxy)ethyl-amino)propyl]-1H-indole-7-carboxylate | 1.54 mmol, 0.72 g | N1=CC(=CC=C1)[C@H](CN[C@@H](CC1=CNC2=C(C=CC=C12)C(=O)OC)C)O[Si](CC)(CC)CC | C26H37N3O3Si
solvent | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | methyl 3-[(2R)-2-((2R)-2-hydroxy-2-pyridin-3-ylethylamino)-propyl]-1H-indole-7-carboxylate | 440 mg, yield: 81% | O[C@@H](CN[C@@H](CC1=CNC2=C(C=CC=C12)C(=O)OC)C)C=1C=NC=CC1 | C20H23N3O3
